US06528525B1
(S)-2-propylamino-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid (exemplification No. 144-13 compound)
In a similar manner to that described in Example 2, methyl (S)-2-propylamino-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate (169 mg), which is the product of Example 169, was reacted with aqueous sodium hydroxide solution (1N, 0.73 ml) and the reaction mixture was treated to give the title compound (144 mg) as colorless crystals.

reactant | methyl (S)-2-propylamino-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate | 169 mg | C(CC)N[C@H](C(=O)OC)CC1=CC=C(C=C1)OCCNC(C1=CC=C(C=C1)C1=NC=CC=C1)=O | C27H31N3O4
reactant | sodium hydroxide | 1N, 0.73 ml | [OH-].[Na+]
product | (S)-2-propylamino-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid | 144 mg | C(CC)N[C@H](C(=O)O)CC1=CC=C(C=C1)OCCNC(C1=CC=C(C=C1)C1=NC=CC=C1)=O | C26H29N3O4
